US08222424B2
[2-(2-Morpholin-4-yl-ethoxy)-4-pyridinyl]-boronic acid is prepared from N-(2-hydroxyethyl)-morpholine according to the procedure described for the preparation of [2-(2-dimethylamino-ethoxy)-4-pyridinyl]-boronic acid. MS (m/z): 253 (M+1).

reactant | N-(2-hydroxyethyl)-morpholine | OCCN1CCOCC1 | C6H13NO2
reactant | [2-(2-dimethylamino-ethoxy)-4-pyridinyl]-boronic acid | CN(CCOC1=NC=CC(=C1)B(O)O)C | C9H15BN2O3
product | [2-(2-Morpholin-4-yl-ethoxy)-4-pyridinyl]-boronic acid | N1(CCOCC1)CCOC1=NC=CC(=C1)B(O)O | C11H17BN2O4
